US07186454B2
In a 500-ml flask equipped with a stirrer, a thermometer and a dropping funnel were placed 34.5 g (485 mmol) of pyrrolidine, 38.4 g (485 mmol) of pyridine and 140 ml of methylene chloride. To the stirred mixture under ice-cooling in a nitrogen atmosphere, 31.4 g (97 mmol) of 1,3,5-adamantanetricarbonyl trichloride in 190 ml of methylene chloride was added dropwise over 1 hour. This was warmed to room temperature, was stirred for further 1 hour and was washed with water, 1 N hydrochloric acid, and 10% aqueous sodium carbonate solution, and the solvent was removed under reduced pressure, to yield 37.2 g (87 mmol) of 1,3,5-tris(1-pyrrolidinylcarbonyl)adamantane in a yield of 90%.

reactant | pyrrolidine | 485 mmol, 34.5 g | N1CCCC1 | C4H9N
reactant | pyridine | 485 mmol, 38.4 g | N1=CC=CC=C1 | C5H5N
reactant | 1,3,5-adamantanetricarbonyl trichloride | 97 mmol, 31.4 g | C12(CC3(CC(CC(C1)C3)(C2)C(=O)Cl)C(=O)Cl)C(=O)Cl | C13H13Cl3O3
solvent | methylene chloride | 190 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
product | 1,3,5-tris(1-pyrrolidinylcarbonyl)adamantane | 87 mmol, 37.2 g, yield of 90% | N1(CCCC1)C(=O)C12CC3(CC(CC(C1)C3)(C2)C(=O)N2CCCC2)C(=O)N2CCCC2 | C25H37N3O3
